US07968554B2
To a solution of 5-(3-methoxymethoxy-4-methyl-phenyl)-3-methyl-[1,2,4]oxadiazole (1.23 g, 5.25 mmol) in tetrahydrofuran/isopropanol (1:1, 30 mL) was added 13.1 mL of 4M HCl in dioxane. The reaction mixture was stirred at room temperature for 18 hours. The solution was concentrated. The residue was diluted with ethyl acetate, washed with water and brine, dried (magnesium sulfate) and concentrated. The residue was recrystallized from ethyl acetate/hexane to afford 2-methyl-5-(3-methyl-[1,2,4]oxadiazol-5-yl)-phenol. (Yield 0.88 g, 88%).

reactant | 5-(3-methoxymethoxy-4-methyl-phenyl)-3-methyl-[1,2,4]oxadiazole | 5.25 mmol, 1.23 g | COCOC=1C=C(C=CC1C)C1=NC(=NO1)C | C12H14N2O3
reactant | HCl | 4M, 13.1 mL | Cl | ClH
solvent | tetrahydrofuran isopropanol | 30 mL | O1CCCC1.C(C)(C)O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-methyl-5-(3-methyl-[1,2,4]oxadiazol-5-yl)-phenol | CC1=C(C=C(C=C1)C1=NC(=NO1)C)O | C10H10N2O2
